US07064120B2
Step A. 3-Chloromethyl-pyridine-1-oxide
To a solution of 3-hydroxymethyl-pyridine N-oxide (1.0 g, 8.0 mmol) in dichloromethane (40 mL) was added thionyl chloride (10 mL, 137 mmol). After stirring for 2 hours, the reaction mixture was concentrated in vacuo. The residue was partitioned between dichloromethane and saturated aqueous sodium bicarbonate. The aqueous layer was repeatedly extracted with dichloromethane. The combined organic layers were dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to give 0.60 g of the title product as a white solid, m.p. 133–137° C.

reactant | 3-hydroxymethyl-pyridine N-oxide | 8.0 mmol, 1.0 g | OCC=1C=[N+](C=CC1)[O-] | C6H7NO2
reactant | thionyl chloride | 137 mmol, 10 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 3-Chloromethyl-pyridine-1-oxide | 0.60 g | ClCC=1C=[N+](C=CC1)[O-] | C6H6ClNO
